US20010049385A1
3-(((4,5,6,7-Tetrahydro-1H-benzimidazol-5-yl)methoxy)methyl)benzonitrile
A solution of a mixture of 3-(((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methoxy)methyl)benzonitrile and 3-(((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methoxy)methyl)benzonitrile (0.18 g, 0.34 mmol) in acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 2 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using DCM/methanol/−25% aqueous ammonia (100:10:1) as eluent, to give 71 mg of the title compound.

reactant | 3-(((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methoxy)methyl)benzonitrile | C1(=CC=CC=C1)C(N1C=NC2=C1CCC(C2)COCC=2C=C(C#N)C=CC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H31N3O
reactant | 3-(((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methoxy)methyl)benzonitrile | 0.34 mmol, 0.18 g | C1(=CC=CC=C1)C(N1C=NC2=C1CC(CC2)COCC=2C=C(C#N)C=CC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H31N3O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 3-(((4,5,6,7-Tetrahydro-1H-benzimidazol-5-yl)methoxy)methyl)benzonitrile | 71 mg | N1C=NC2=C1CCC(C2)COCC=2C=C(C#N)C=CC2 | C16H17N3O
